US04873248
To the mixture of 6-methyl-2-picoline amidine hydrochloride (1.5 g) and methanol (50 ml) were added 28% sodium methoxide solution in methanol (2.2 g) and 3-dimethylamino-1-phenyl-2-butene-1-one (1.7 g). After the mixture was heated under reflux for 2 hours, it was concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography (eluent; n-hexane:ethylacetate=2:1 in volume) to obtain 2-(6-methyl-2-pyridinyl)-4-phenylpyrimidine (1.6 g).

reactant | 6-methyl-2-picoline amidine hydrochloride | 1.5 g | Cl.CC1=CC=CC(=N1)C(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | n-hexane | CCCCCC | C6H14
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | methanol | 2.2 g | CO | CH4O
solvent | 3-dimethylamino-1-phenyl-2-butene-1-one | 1.7 g | CN(C(=CC(=O)C1=CC=CC=C1)C)C | C12H15NO
solvent | methanol | 50 ml | CO | CH4O
product | 2-(6-methyl-2-pyridinyl)-4-phenylpyrimidine | 1.6 g | CC1=CC=CC(=N1)C1=NC=CC(=N1)C1=CC=CC=C1 | C16H13N3
